* /Users/Dan/Documents/ThesisWork/LTSpice/CSK_LT1057.asc
R1 -Y N001 {mc(sR,0.001)} tol=1
R3 X N006 {mc(bR,0.001)} tol=1
R4 N011 N006 {mc(tR,0.001)} tol=1
R5 -Y N006 {mc(R,0.001)} tol=1
R2 X N001 {mc(sR,.001)} tol=1
C1 N005 X {mc(C,tolc)}
R6 N016 N012 {mc(tR,0.001)} tol=1
R7 Z N012 {mc(pR,0.001)} tol=1
V1 +15v 0 15v
V2 -15v 0 -15v
XU1 X 0 0 Z -15v 0 N011 +15v AD633_JT
XU5 -Y 0 X 0 -15v 0 N016 +15v AD633_JT
V3 M 0 PULSE(0 5 0 1p 1p {T} {2*T} 10)
R8 N013 N012 {mc(R,0.001)}
R9 N007 N006 {mc(R,0.001)}
R10 N002 N001 {mc(R,0.001)}
R13 N004 N003 {mc(qR,0.001)}
R14 N003 N002 {mc(R,0.001)}
R18 N005 N004 {mc(R,0.001)}
C2 N010 -Y {mc(C,tolc)}
R11 N009 N008 {mc(qR,0.001)}
R12 N008 N007 {mc(R,0.001)}
R15 N010 N009 {mc(R,0.001)}
C3 N017 Z {mc(C,tolc)}
R16 N015 N014 {mc(qR,0.001)}
R17 N014 N013 {mc(R,0.001)}
R19 N017 N015 {mc(R,0.001)}
XU2 0 N001 +15v -15v N002 LT1056
XU3 0 N003 +15v -15v N004 LT1056
XU4 0 N005 +15v -15v X LT1056
XU6 0 N010 +15v -15v -Y LT1056
XU7 0 N008 +15v -15v N009 LT1056
XU8 0 N006 +15v -15v N007 LT1056
XU9 0 N012 +15v -15v N013 LT1056
XU10 0 N014 +15v -15v N015 LT1056
XU11 0 N017 +15v -15v Z LT1056
.tran 0 {10*T} 0 .00001
* ( BASED ON A CIRCUIT BY PAUL HOROWITZ )
* LORENZ BUTTERFLY CIRCUIT
* WWW.CHAOTIC-CIRCUITS.COM
***********************************************************************************
**** SPICE MODELING OF AD633 by JIM THOMPSON, http://www.analog-innovations.com/ © 2014 ****
***********************************************************************************
***** Rudimentary Behavioral Model of Analog Devices AD633 Analog Multiplier ******
***** Noise, CMRR and Feed-Thru are not modeled
***********************************************************************************
*** Per Pin Name X1 X2 Y1 Y2 -VS Z  W +VS ***
***              |  |  |  |   |  |  |  |  ***
.SUBCKT AD633_JT 1  2  3  4   5  6  7  8 
G_GX1        1 5 VALUE { (1+TANH(22*(V(1,5)-2)))/2*V(ITEMP) }
G_GX2        2 5 VALUE { (1+TANH(22*(V(2,5)-2)))/2*V(ITEMP) }
G_GY1        3 5 VALUE { (1+TANH(22*(V(3,5)-2)))/2*V(ITEMP) }
G_GY2        4 5 VALUE { (1+TANH(22*(V(4,5)-2)))/2*V(ITEMP) }
G_GZ         6 5 VALUE { (1+TANH(22*(V(6,5)-2)))/2*V(ITEMP) }
RCON_TAG3    7 0 1G
E_E1         ITEMP 0 VALUE { 1nA*(489.9-2.0842*TEMP+4.3472m*TEMP*TEMP) }
G_G1         N_1 7 VALUE { 30mA*TANH(450*V(N_2, 7))*V(BOUNDS) }
C_C1         N_2 0  100pF 
G_GIQ        8 5 VALUE { (1+TANH(22*(V(8,5)-2)))/2*4mA }
R_RNOF2      7 5  1G 
C_COUT       7 5  5pF 
E_E3         BOUNDS 0 VALUE {
+  (1+TANH(25*(V(8,7)-2.2)))*(1+TANH(25*(V(7,5)-2.2)))/4 }
R_R1         WINT N_2  1.59155K 
E_E2         WINT 0 VALUE { V(1,2)*V(3,4)/10+V(6) }
.MODEL       D D
D_D1         N_3 N_4 D 
F_F1         N_3 8 VF_F1 1
VF_F1        8 N_1 0
D_D2         8 N_3 D 
R_RNOF1      8 7  1G 
F_F2         8 5 VF_F2 1
VF_F2        N_4 8 0
C_C2         6 5  4pF 
C_C3         4 5  4pF 
C_C4         3 5  4pF 
C_C5         2 5  4pF 
C_C6         1 5  4pF 
.ENDS   AD633_JT
***********************************************************************************
* AD633_JT\nPIN ASSIGNMENT\n \nPIN1     X1          PIN5     -Vs\nPIN2     X2          PIN6       Z\nPIN3     Y1          PIN7       W\nPIN4     Y2          PIN8     +Vs
.lib opamp.sub
.param C = .3n
.param tolc = 0.01
.param R = 100k
.param tR = 10k
.param pR = 75k
.param sR = 20k
.param bR = 10k
.param sig = 10
.param rho = 3.74
.param T = 10m
.param qR = 47k
.lib LTC.lib
.backanno
.end
