* /Users/Dan/Documents/ThesisWork/LTSpice/CSK_TS_Ideal.asc
R1 N004 N005 {R} tol=1
C1 N005 X1 {C}
V1 +15v 0 15v
V2 -15v 0 -15v
XU1 X1 0 0 X3 -15v 0 N015 +15v AD633_JT
V3 M 0 PULSE(0 5 .1 1u 1u .3 .6 10)
XU14 N006 N010 N007 opamp Aol=100K GBW=10Meg
R22 N006 NC_01 10k
R23 N010 NC_02 10k
R24 N007 N006 10k
R25 N010 0 10k
XU15 N008 0 MR opamp Aol=100K GBW=10Meg
R26 N008 N007 10k
R27 MR N008 100k
R28 M N014 9k
R29 N014 0 1k
XX1 +15v -15v 0 M X3 N002 N009 NC_03 tsblock
XX2 +15v -15v 0 M X3 N012 N016 NC_04 tsblock
R2 N002 N001 {sig*R2}
R8 N001 X1 {R2}
R9 N001 -X2 {R2}
R10 N004 N003 {R2}
R11 N003 N009 {R2}
R12 N016 N013 {R} tol=1
C4 N013 -X2 {C}
R13 N012 N011 {R2}
R14 N011 N015 {R2}
R15 N011 X1 {R2/beta}
R16 N011 -X2 {R2}
XU2 X1 0 -X2 0 -15v 0 N022 +15v AD633_JT
R4 N018 N017 {R2}
R5 N017 N022 {R2}
R6 N017 X3 {R2/rho}
XX3 +15v -15v 0 M X3 N018 P001 NC_05 tsblock
R3 N020 N021 {R} tol=1
C2 N021 X3 {C}
R7 N020 N019 {R2}
R17 N019 P001 {R2}
XU3 0 N005 +15v -15v X1 LT1057
XU4 0 N003 +15v -15v N004 LT1057
XU5 0 N001 +15v -15v N002 LT1057
XU6 0 N013 +15v -15v -X2 LT1057
XU7 0 N011 +15v -15v N012 LT1057
XU8 0 N021 +15v -15v X3 LT1057
XU9 0 N019 +15v -15v N020 LT1057
XU10 0 N017 +15v -15v N018 LT1057

* block symbol definitions
.subckt tsblock Vcc Vss GND MSG X3 IN OUT TEST
XU1 0 0 X3 Vss P001 N009 N007 Vcc LT1011
R2 Vcc N007 20k
R1 N008 GND 10k
C1 N009 Vcc .003µ
R3 N007 P001 1000k
D1 N007 N008 1N4148
XU2 N005 N006 TEST Vcc Vss 4066
R4 TEST GND 10k
D2 GND N008 1N4148
XU7 N001 0 N002 opamp Aol=100K GBW=10Meg
XU9 N003 0 OUT opamp Aol=100K GBW=10Meg
R5 N003 N006 10k
R6 N003 N002 10k
R7 OUT N003 10k
R8 N001 IN 10k
R9 N002 N001 7.5k
XU8 N004 0 N005 opamp Aol=100K GBW=10Meg
R10 N004 IN 10k
R11 N005 N004 3k
C2 N006 GND 10p
A1 N008 MSG 0 0 0 TEST 0 0 XOR
.lib opamp.sub
.ends tsblock

.model D D
.lib /Users/Dan/Library/Application Support/LTspice/lib/cmp/standard.dio
.tran 0 .5 0 .001 startup
***********************************************************************************
**** SPICE MODELING OF AD633 by JIM THOMPSON, http://www.analog-innovations.com/ © 2014 ****
***********************************************************************************
***** Rudimentary Behavioral Model of Analog Devices AD633 Analog Multiplier ******
***** Noise, CMRR and Feed-Thru are not modeled
***********************************************************************************
*** Per Pin Name X1 X2 Y1 Y2 -VS Z  W +VS ***
***              |  |  |  |   |  |  |  |  ***
.SUBCKT AD633_JT 1  2  3  4   5  6  7  8 
G_GX1        1 5 VALUE { (1+TANH(22*(V(1,5)-2)))/2*V(ITEMP) }
G_GX2        2 5 VALUE { (1+TANH(22*(V(2,5)-2)))/2*V(ITEMP) }
G_GY1        3 5 VALUE { (1+TANH(22*(V(3,5)-2)))/2*V(ITEMP) }
G_GY2        4 5 VALUE { (1+TANH(22*(V(4,5)-2)))/2*V(ITEMP) }
G_GZ         6 5 VALUE { (1+TANH(22*(V(6,5)-2)))/2*V(ITEMP) }
RCON_TAG3    7 0 1G
E_E1         ITEMP 0 VALUE { 1nA*(489.9-2.0842*TEMP+4.3472m*TEMP*TEMP) }
G_G1         N_1 7 VALUE { 30mA*TANH(450*V(N_2, 7))*V(BOUNDS) }
C_C1         N_2 0  100pF 
G_GIQ        8 5 VALUE { (1+TANH(22*(V(8,5)-2)))/2*4mA }
R_RNOF2      7 5  1G 
C_COUT       7 5  5pF 
E_E3         BOUNDS 0 VALUE {
+  (1+TANH(25*(V(8,7)-2.2)))*(1+TANH(25*(V(7,5)-2.2)))/4 }
R_R1         WINT N_2  1.59155K 
E_E2         WINT 0 VALUE { V(1,2)*V(3,4)/10+V(6) }
.MODEL       D D
D_D1         N_3 N_4 D 
F_F1         N_3 8 VF_F1 1
VF_F1        8 N_1 0
D_D2         8 N_3 D 
R_RNOF1      8 7  1G 
F_F2         8 5 VF_F2 1
VF_F2        N_4 8 0
C_C2         6 5  4pF 
C_C3         4 5  4pF 
C_C4         3 5  4pF 
C_C5         2 5  4pF 
C_C6         1 5  4pF 
.ENDS   AD633_JT
***********************************************************************************
* AD633_JT\nPIN ASSIGNMENT\n \nPIN1     X1          PIN5     -Vs\nPIN2     X2          PIN6       Z\nPIN3     Y1          PIN7       W\nPIN4     Y2          PIN8     +Vs
.lib opamp.sub
.param C = 10n
.param R = 100k
.param R2 = 80k
.param sig = 10
.param beta = 6
.param rho = 2
.lib LTC.lib
.lib LTC1.lib
.lib SwitchAna.lib
.backanno
.end
