*
V2 N002 0 PULSE(0 5 1 .0000001 .0000001 1 2 10)
R1 N003 0 10k
V1 N001 0 PULSE(0 5 .5 .0000001 .0000001 .5 1 10)
A1 N001 N002 0 0 0 N003 0 0 XOR
.tran 5
.backanno
.end
